Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Anorexia nervosa 
 
Major Surgical or Invasive Procedure:
None. 
 
History of Present Illness:
Ms ___ is an ___ female sent in from ___ clinic on 
___ after office evaluation of anorexia. Patient had a 
39lb weight loss over the past 8 months ___: 123lbs, now 
84lbs per PCP). Pt started treatment in ___ over the summer, came 
to ___ for college in ___, went to ___ ___ ___ to arrange 
treatment in ___ and arrange for therapist; was sent to ___ 
based on concerning orthostatics and wt loss history. No SI. LMP 
in ___. Reported she has been running around a lot because of 
starting college and had been drinking a lot of coffee, during 
that time she complained of intermittent abdominal pain from the 
coffee but no palpitations.  

 In the ED, initial VS were T97.5, HR 57, BP90/60, RR18, 
Sao2100% RA  
 Labs showed Ca: 10.1 Mg: 2.4 P: 4.3  
 Received: IVF 1000 mL LR 500 mL  
 
 Transfer VS were T98.0, HR60, BP 92/60, RR18, SaO2 100% RA  

 Psychiatry was consulted, and determined patient did not have 
capacity to leave AMA. Additionally per psychiatry:
 -patient meets criteria for medically unstable eating disorder, 
by orthostatics, bradycardia, BMI  
 -would place patient on calorie counts, and if patient does not 
have intake of ___ kcal daily, would start eating disorder 
protocol  
 -pls page psychiatry is patient attempting to leave AMA and is  

 not redirectable, pt will likely not have capacity to leave AMA 
 
 given her lack of insight into her illness
 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient mentioned how it was her 
birthday; she was eating a brownie and some cake. No complaints, 
but did not feel she needed admission as she felt she was making 
progress as an outpatient and was seeking appropriate care.  

 REVIEW OF SYSTEMS: Denies fever, chills, night sweats, 
headache, vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  
 All other 10-system review negative in detail.  
 
Past Medical History:
Anorexia nervosa
Tobacco use
 
Social History:
___
Family History:
Mother with hypothyroidism
 
Physical Exam:
==========================
ADMISSION PHYSICAL
==========================
 VS - T97.9 PO BP88/51 HR47 RR18 SaO2 95 RA  
 GENERAL: Thin young lady NAD sitting edge of bed eating a 
brownie  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: Bradycardia RR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

==========================
DISCHARGE PHYSICAL
==========================
Vital Signs: 97.3 | 97/50 | 60 | 16 | 100%ra
 *Orthostatics: 
    Sitting 80/48 | 73
    Standing 85/52 | 98
*Weight: 38.7 <- <- 38.06 <- 37.78 kg (admit wt: 39.0kg) 
General: no acute distress, cachectic, alert and oriented.
HEENT: Sclera anicteric, MMM
Lungs: CTA bilaterally
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
Abdomen: soft, nontender, nondistened
Ext: Warm, well-perfused, no edema 
Skin: no rash visible on extremities, some redness around 
telemetry leads
Neuro: Face symmetric, moving all limbs against gravity.
 
Pertinent Results:
==========================
ADMISSION LABS
==========================

___ 02:55PM BLOOD WBC-4.5 RBC-4.01 Hgb-12.7 Hct-37.8 MCV-94 
MCH-31.7 MCHC-33.6 RDW-12.9 RDWSD-44.7 Plt ___
___ 02:55PM BLOOD Neuts-40.0 ___ Monos-7.3 Eos-1.3 
Baso-0.9 Im ___ AbsNeut-1.79 AbsLymp-2.26 AbsMono-0.33 
AbsEos-0.06 AbsBaso-0.04
___ 02:55PM BLOOD ___ PTT-35.1 ___
___ 02:55PM BLOOD Glucose-71 UreaN-3* Creat-0.7 Na-138 
K-3.8 Cl-100 HCO3-23 AnGap-19
___ 02:55PM BLOOD ALT-12 AST-20 AlkPhos-45 TotBili-0.4
___ 02:55PM BLOOD Albumin-5.4* Calcium-10.1 Phos-4.3 
Mg-2.4*
___ 02:55PM BLOOD TSH-1.3
___ 02:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:05AM BLOOD Lactate-0.7
___ 02:55PM BLOOD PREALBUMIN-Test   32
   
___ 02:55PM URINE Color-Straw Appear-Clear Sp ___
___ 02:55PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 02:55PM URINE UCG-NEGATIVE
___ 02:55PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

==========================
DISCHARGE LABS
==========================
___ 06:10AM BLOOD ALT-12 AST-17 LD(LDH)-166 AlkPhos-44 
TotBili-0.3
___ 06:55AM BLOOD Glucose-72 UreaN-9 Creat-0.5 Na-141 K-4.4 
Cl-106 HCO3-24 AnGap-15
___ 06:55AM BLOOD Albumin-4.6 Calcium-8.9 Phos-4.2 Mg-2.0

==========================
SELECT INPATIENT LABS
==========================
___ 04:45AM BLOOD WBC-5.1 RBC-3.74* Hgb-11.9 Hct-35.7 
MCV-96 MCH-31.8 MCHC-33.3 RDW-12.5 RDWSD-43.6 Plt ___

=========================
WEIGHT TREND
=========================

DateTimekglbScale
___

 
Brief Hospital Course:
___ is a ___ PMHx anorexia nervosa who recently moved to 
___ from ___ (where she lives with her father) to start 
school at ___ and presented to a ___ 
establish care, found to be bradycardic and orthostatic, with 
significant weight loss since leaving the ___., and was admitted 
to the ___ on ___ and initiated on 
the eating disorder protocol. 

#Anorexia Nervosa: Patient has had a 39lb weight loss over the 
past 8 months ___: 123lbs, 84lbs on admission per PCP); 
last menstrual period in ___. Prior to the move, she was 
doing well in an outpatient treatment program, reportedly 
gaining 1kg/wk for 5 weeks. However, when she moved to ___ 
she lost her progress. She attributes this to the many new 
routines she had to learn as she transitioned to her new living 
situation and started college. While trying to establish medical 
care at ___, she was found to be orthostatic and 
bradycardic and was subsequently transferred to ___ for 
evaluation and placement on the eating disorder protocol. She 
was 70% of her ideal body weight. She had no evidence of 
refeeding syndrome based on K, Mg, and Phos. She was initially 
given fluids 1.5L IV fluids (explaining initial weight gain) 
with improvement in her soft orthostatic blood pressures. Her 
fluid intake was liberalized to 3L/day due to orthostasis, which 
was never symptomatic. She was monitored on telemetry, where she 
frequently had asymptomatic bradycardia to the ___ and ___, 
particularly during sleep. She was regularly bradycardic <40 
overnight and had orthostatic vital signs with heart rate 
increasing from <40-50 on sitting to 90-110 on standing. This 
improved and by ___ her resting HR in the ___, and 
orthostatic HR increase improved to only ___ by ___. She 
did not have orthostatic hypotension. Maintained on telemetry 
with improved daytime heartrates in 50-70s and no arrhythmias. 

Multidisciplinary meeting on ___ with the primary team, 
psychiatry, and nutrition
discussed goals of inpatient admission. Based on known 
psychiatric follow up and provider ___ her 
back to care in ___, both father and patient refusing 
inpatient treatment, which is the ongoing recommendation of the 
inpatient multidisciplinary team. 

Discussed with patient and father the risks posed to her with 
her continued low BMI, that while HR, BPs are improved she 
remains at risk, including while on flight back to ___, 
though lack of arrhythmias, electrolyte stability deems no 
contraindication to her flying. Both accept risks, both 
verbalizing commitment to outpatient psychiatric eating disorder 
care, inpatient psych and medical team in discussion with 
outpatient psych during hospitalization and at discharge. PCP in 
___ knows her, and will be notified as well. Reinforced need 
for multidisciplinary follow up with eating disorder providers 
as well as PCP. 

Nutrition provided additional education and meal plans at 
discharge. Reinforced need for this and likely increasing 
caloric requirement to gain weight appropriately and improve 
health. At discharge, 3400 kcal daily. 

TRANSITIONAL ISSUES
===================
- Patient should continue to follow nutrition recommendations 
from inpatient nutrition team, 3400 calorie intake per day
- Resume outpatient eating disorder treatment with Dr. ___ 
as soon as possible
- close primary care follow up 
- tobacco cessation counseling, ongoing

> 30 minutes spent on discharge day services, counseling and 
coordination of care
medically optimized for discharge
 
Medications on Admission:
None
 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Nicotine Patch 14 mg TD DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
#ANOREXIA NERVOSA, complicated by
 #ASYMPTOMATIC ORTHOSTATIC TACHYCARDIA
 #HYPOTENSION
 #BRADYCARDIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ because of your slow heart 
rate, low blood pressure, dangerous jump in heart rate when you 
go from sitting to standing. 

You were treated with the eating disorder protocol with 
nutrition, psychiatry, and medicine. Your heart and blood 
pressures were monitored closely. While your heart rates have 
improved, they are not yet completely safe. It is very important 
that you continue to eat according to the protocol to achieve 
improved nutrition and health. 

It was discussed that your heart and health are still at risk 
and require ongoing treatment, and our recommendation is for 
inpatient treatment, however you and your family were in favor 
of returning to ___ to continue treatment as you had 
received before, accepting the potential risks to your health. 

Please make sure to follow up with your outpatient psychiatrist 
in ___ as soon as possible and with your primary care doctor. 
Please follow the nutrition plan developed for you while 
inpatient. You were given printouts and explanations immediately 
prior to your discharge. It has been personalized to maximize 
your health.  

We wish you the very best!
-Your care team at ___
 
Followup Instructions:
___